US09399635B2
A 1N sodium hydroxide aqueous solution (10.4 mL) was added to a solution of 666 mg (4.38 mmol) of 4-hydroxy-2-methoxybenzaldehyde, 1.50 g (3.65 mmol) of 2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl bromide, and 1.18 g (3.66 mmol) of tetrabutylammonium bromide in chloroform (11 mL) at room temperature, and the mixture was vigorously stirred for 1 hour. The reaction mixture was subjected to extraction with ethyl acetate. After washing with a saturated sodium bicarbonate solution and then with saturated brine, drying over magnesium sulfate was performed. After filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=75/25 to 60/40) to give 606 mg (40% yield) of 2-methoxy-4-[(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl) oxy]benzaldehyde as a white powder.

reactant | sodium hydroxide | 1N, 10.4 mL | [OH-].[Na+]
reactant | 4-hydroxy-2-methoxybenzaldehyde | 4.38 mmol, 666 mg | OC1=CC(=C(C=O)C=C1)OC | C8H8O3
reactant | 2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl bromide | 3.65 mmol, 1.50 g | C(C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)Br | C14H19BrO9
catalyst | tetrabutylammonium bromide | 3.66 mmol, 1.18 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | chloroform | 11 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-methoxy-4-[(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl) oxy]benzaldehyde | 606 mg, 40% yield | COC1=C(C=O)C=CC(=C1)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H26O12
